US06552028B2
To a solution of ethyl (S)-2-pyrrolidone-5-carboxylate (25.5 g, 162 mmol) in methylene chloride (250 mL) was added in order BOC anhydride (36.5 g, 167 mmol), triethylamine (24.8 mL, 178.4 mmol) and DMAP (2.0 g, 16.2 mmol), and the mixture was stirred at 20° C. for 16 hrs. Solvent was removed by evaporation under reduced pressure, and the resulting slurry was re-dissolved in EtOAc, washed with water and then dried over Na2SO4. Evaporation to dryness and then purification by a filtration chromatography on silica gel eluting with 50% EtOAc-hexane gave ethyl (S)-1-tert-butoxycarbonyl-2-pyrrolidone-5-carboxylate (38.3 g, 149.2 mmol) as an oil which crystallized on standing.

reactant | ethyl (S)-2-pyrrolidone-5-carboxylate | 162 mmol, 25.5 g | N1C(CC[C@H]1C(=O)OCC)=O | C7H11NO3
reactant | BOC anhydride | 167 mmol, 36.5 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 178.4 mmol, 24.8 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 16.2 mmol, 2.0 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | ethyl (S)-1-tert-butoxycarbonyl-2-pyrrolidone-5-carboxylate | 149.2 mmol, 38.3 g | C(C)(C)(C)OC(=O)N1C(CC[C@H]1C(=O)OCC)=O | C12H19NO5
